US07834030B2
To a solution of 342 mg of trifluoroethanol in 2.1 mL of tetrahydrofuran at 5° C. was slowly added 4 mL of a molar solution of potassium tert-butoxide in tert-butanol. After stirring at 5° C. for 30 minutes, the resulting solution was slowly added to a solution of 1.25 g of 2,5-difluoro-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzonitrile in 5.6 mL of tetrahydrofuran at −60° C. The resulting mixture was stirred overnight allowing the temperature to warm up to room temperature. It was then poured into water and extracted with dichloromethane. The organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient from heptane 100 to heptane 70/ethyl acetate 30) to give 1.09 g of 5-fluoro-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-2-(2,2,2-trifluoro-ethoxy)-benzonitrile.

reactant | trifluoroethanol | 342 mg | C(C(F)(F)F)O | C2H3F3O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2,5-difluoro-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzonitrile | 1.25 g | FC1=C(C#N)C=C(C(=C1)OC(CC)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)F | C21H15F5N2OS
reactant | water | O | H2O
solvent | tetrahydrofuran | 2.1 mL | O1CCCC1 | C4H8O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 5.6 mL | O1CCCC1 | C4H8O
product | 5-fluoro-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-2-(2,2,2-trifluoro-ethoxy)-benzonitrile | 1.09 g | FC=1C(=CC(=C(C#N)C1)OCC(F)(F)F)OC(CC)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C23H17F7N2O2S
